US07977358B2
C) 1-(3-Bromo-phenyl)-3,5-diethyl-1H-pyrazole-4-carboxylic acid methyl ester
A solution of 7.10 g (35.5 mmol) of (E and/or Z)-3-methoxy-2-propionyl-pent-2-enoic acid methyl ester in 10 ml of MeOH was added to a solution of 8.09 g (35.5 mmol) of 3-bromophenylhydrazine hydrochloride in 150 ml of MeOH and the mixture was cooled to −20° C. To this mixture was added a solution of 3.79 g=5.22 ml (37.2 mmol) of Et3N in 40 ml of MeOH drop by drop and the reaction was then warmed up to RT. After 20 hours, it was poured into crashed ice and extracted twice with Et2O; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated to give 7.62 g of the title compound as light red oil. MS: 337.1 (MH+, 1 Br).

reactant | 3-methoxy-2-propionyl-pent-2-enoic acid methyl ester | COC(C(=C(CC)OC)C(CC)=O)=O | C10H16O4
reactant | 3-bromophenylhydrazine hydrochloride | 35.5 mmol, 8.09 g | Cl.BrC=1C=C(C=CC1)NN
reactant | Et3N | 37.2 mmol, 5.22 ml | CCN(CC)CC | C6H15N
solvent | MeOH | 10 ml | CO | CH4O
solvent | MeOH | 150 ml | CO | CH4O
solvent | MeOH | 40 ml | CO | CH4O
product | 1-(3-Bromo-phenyl)-3,5-diethyl-1H-pyrazole-4-carboxylic acid methyl ester | 7.62 g | COC(=O)C=1C(=NN(C1CC)C1=CC(=CC=C1)Br)CC | C15H17BrN2O2
